US07276518B2
N-(4-Dimethylamino-4-phenyl-cyclohexyl)-2-(5-methoxy-1H-indol-3-yl)-acetamide hydrochloride, nonpolar diastereomer
The nonpolar diastereomer of N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine (387 mg) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methyl-morpholinium chloride (267 mg, 2.0 mmol.) were added to a solution of (5-methoxy-1H-indol-3-yl)acetic acid (364 mg) in abs. methanol (20 ml). Stirring was then carried out for 24 hours at RT. For working up, the mixture was concentrated, the batch was diluted with water (10 ml), and the mixture was adjusted to pH 11 with 5M NaOH and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried over Na2SO4 and concentrated by evaporation. After column chromatography with MeOH, the nonpolar amide (154 mg; colorless oil) was dissolved in 2-butanone (5 ml) and converted with chlorotrimethylsilane (72 μl) into the corresponding hydrochloride (white solid; 168 mg; m.p. 143-145° C.).

reactant | N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | 387 mg | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methyl-morpholinium chloride | 2.0 mmol, 267 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | (5-methoxy-1H-indol-3-yl)acetic acid | 364 mg | COC=1C=C2C(=CNC2=CC1)CC(=O)O | C11H11NO3
solvent | methanol | 20 ml | CO | CH4O
product | N-(4-Dimethylamino-4-phenyl-cyclohexyl)-2-(5-methoxy-1H-indol-3-yl)-acetamide hydrochloride | Cl.CN(C1(CCC(CC1)NC(CC1=CNC2=CC=C(C=C12)OC)=O)C1=CC=CC=C1)C | InChI=1S/C25H31N3O2.ClH/c1-28(2)25(19-7-5-4-6-8-19)13-11-20(12-14-25)27-24(29)15-18-17-26-23-10-9-21(30-3)16-22(18)23;/h4-10,16-17,20,26H,11-15H2,1-3H3,(H,27,29);1H
